US04479949
3-Acetyl-2-[2-[3-(carboxy)propoxy]phenyl]benzothiazoline (Compound No. 96)
To the solution of 7.71 g of 3-acetyl-2-[2-[3-(ethoxycarbonyl)-propoxy]phenyl]benzothiazoline in 50 ml of methanol, 2N-sodium hydroxide solution is added and the reaction mixture is stirred for 2 hours at room temperature. Methanol is removed off in vacuo. The residue is acidified with 2N-hydrochloric acid to give 5.72 g (80%) of the titled compound.

reactant | 3-acetyl-2-[2-[3-(ethoxycarbonyl)-propoxy]phenyl]benzothiazoline | 7.71 g | C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCCCC(=O)OCC | C21H23NO4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-Acetyl-2-[2-[3-(carboxy)propoxy]phenyl]benzothiazoline | 5.72 g, 80% | C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCCCC(=O)O | C19H19NO4S
